US06417200B1
G) N1-[3-(amino(imino)methyl)benzoyl]-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine hydrochloride
A mixture of N1-[3-(amino(hydroxyimino)methyl)benzoyl]N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine (209 mg, 0.48 mmol), EtOH (5 mL), H2O (2.5 mL), 1N HCl (0.5 mL, 0.5 mmol), and 10% Pd/C (217 mg) was hydrogenated at 1 atm. for 14 h. The reaction was filtered through diatomaceous earth with hot methanolic washes. The filtrate was concentrated and the residue was resubjected to the hydrogenation conditions using 10% Pd/C (189 mg). After 6 h, the reaction mixture was filtered through diatomaceous earth with hot methanolic washes. The filtrate was concentrated to give the title compound as a solid (134 mg, 62%); NMR(300 MHz, DMSO-d6): δ10.27 (s, 1H), 9.89 (s, 1H), 9.45 (s, 2H), 9.14 (s, 2H), 8.42 (s, 1H), 8.23 (d, J=7.5, 1H), 7.94 (d, J=7.2, 1H), 7.86 (d, J=8.1, 2H), 7.73 (t, J=7.8, 1H), 7.28 (m, 4H), 6.65 (d, J=8.7, 1H), 2.90 (m, 1H), 1.19 (s, 3H), 1.17 (s, 3H); MS(FD): 399.2 (M—OH).

reactant | N1-[3-(amino(hydroxyimino)methyl)benzoyl]N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine | 0.48 mmol, 209 mg | NC(C=1C=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1)=NO | C24H24N4O4
reactant | EtOH | 5 mL | CCO | C2H6O
reactant | HCl | 0.5 mmol, 1N, 0.5 mL | Cl | ClH
catalyst | Pd/C | 217 mg | [Pd] | Pd
solvent | H2O | 2.5 mL | O | H2O
product | N1-[3-(amino(imino)methyl)benzoyl]-N2-(4-isopropylbenzoyl)-4-hydroxy-1,2-benzenediamine hydrochloride | 134 mg, 62% | Cl.NC(C=1C=C(C(=O)NC=2C(=CC(=CC2)O)NC(C2=CC=C(C=C2)C(C)C)=O)C=CC1)=N | InChI=1S/C24H24N4O3.ClH/c1-14(2)15-6-8-16(9-7-15)23(30)28-21-13-19(29)10-11-20(21)27-24(31)18-5-3-4-17(12-18)22(25)26;/h3-14,29H,1-2H3,(H3,25,26)(H,27,31)(H,28,30);1H
